Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, foreign body ingestion 
 
Major Surgical or Invasive Procedure:
___: EGD with removal of foreign objects (magnets) and 
clipping/injection of gastric ulcerations

 
History of Present Illness:
___ w PMH Schizophrenia, depression, PTSD and prior suicide 
attempts, presenting with abdominal pain following magnet 
ingestion. Pt recently discharged from ___ after presenting 
on ___ with ingestion of 4 magnets.  
 The ingestion on ___ was with intent for self harm, so she was 
admitted to the psychiatric unit, started on SSRI and mood 
stabilizer and discharged on ___.  
 She presents to ___ today after reportedly swallowing three 
magnets on ___. Says they were cylindrical, strong magnets 
taken from an office where she works in ___. She developed 
LUQ abdominal pain so she came to the ED.  
 Patient reports swallowing magnets so as to come to the 
hospital and avoid her family, in a desire to save her family. 
She states that she heard voices telling her to hurt her family 
members, so she decided to swallow the magnets, in an attempt 
for help from the medical community. Denies SI or HI; endorses 
continued auditory hallucinations. She does not wish that her 
family know about this.  
 Magnets were small, approx. 1x1cm; she swallowed them 
separately with 30 minute interval between them. Reports 
retrosternal pain initially after swallowing magnets. Today has 
developed epigastric and LLQ pain, worse with movement. No 
n/v/d. No bloody stool or melena  
 In the ED, initial vitals: 98.0 69 120/56 18 100% RA.  
 Physical exam significant for disorganized thought process  
 epigastric and LLQ pain with involuntary guarding, no rebound 
tenderness.  
 - Labs were significant for normal CBC, BMP, urine toxicology. 
UA + large blood, trace protein, trace ketones, 2 epithelial 
cells.  
 - CXR significant for three connected oblong structures 
projecting over the expected area of stomach.  
 - She received 2mg morphine and 1L NS.  
 - She was taking emergently for EGD for attempted magnetic 
removal.  
 Upon arrival to the floor, she endorsed sore throat and mild 
epigastric pain.  
 
Past Medical History:
 - PTSD  
 - Depression  
 - Dissociative Disorder  
 - Schizophrenia  
 - Multiple prior suicide attempts: clonazepam ingestion, magnet 
ingestion
 
Social History:
___
Family History:
 + schizophrenia, alcoholism - father
 
Physical ___:
ADMISSION PHYSICAL:
=====================
 VS: T 98.1, BP 102/47, HR 68, R 18, SpO2 100%/RA 68.6 kg  
 GEN: Alert, lying in bed, no acute distress  
 HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
 NECK: Supple without LAD  
 PULM: Clear bilaterally without wheeze or rhonchi  
 COR: RRR (+)S1/S2 with faint grade I systolic murmur at 
bilateral upper sternal borders  
 ABD: Soft, non-distended, mild TTP over epigastrium, normal 
bowel sounds  
 EXTREM: Warm, well-perfused, no edema  
 NEURO: face symmetric, moving all extremities well  
 PSYCH: appropriate, denies SI, HI, AH, VH

DISCHARGE PHYSICAL:
===================
 VITALS: 98 107/42 74 16 99% RA
 GENERAL: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear  
 NECK: Supple, JVP not elevated
 RESP: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 ABD: +BS, soft, nondistended, ttp in LUQ without rebound
 GU: no foley  
 EXT: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 NEURO: CNs2-12 intact, motor function grossly normal
 
Pertinent Results:
ADMISSION LABS:
===================
___ 03:01PM BLOOD WBC-5.4 RBC-3.82* Hgb-11.6 Hct-34.4 
MCV-90 MCH-30.4 MCHC-33.7 RDW-11.9 RDWSD-38.4 Plt ___
___ 03:01PM BLOOD Neuts-56.1 ___ Monos-4.8* 
Eos-0.4* Baso-0.7 Im ___ AbsNeut-3.04 AbsLymp-2.05 
AbsMono-0.26 AbsEos-0.02* AbsBaso-0.04
___ 03:01PM BLOOD Glucose-90 UreaN-6 Creat-0.6 Na-137 K-3.5 
Cl-101 HCO3-27 AnGap-13

DISCHARGE LABS:
=================
___ 07:35AM BLOOD WBC-4.6 RBC-3.68* Hgb-11.1* Hct-33.8* 
MCV-92 MCH-30.2 MCHC-32.8 RDW-11.9 RDWSD-39.7 Plt ___

IMAGING:
=============
CXR ___  
No acute cardiopulmonary process. Three connected oblong 
structures are seen projecting over the expected area of the 
stomach, likely representing ingested magnets.  

KUB ___  
IMPRESSION:  
3 cylindrical radiopaque densities vertically aligned end-to-end 
with each other likely reflective of ingested magnets in the 
left upper quadrant abdomen, possibly within the stomach. No 
free intraperitoneal gas.

EGD ___: 
Foreign body in the stomach (foreign body removal)
Ulcers in the stomach (injection, endoclip)
Otherwise normal EGD to third part of the duodenum
 
Brief Hospital Course:
___ w PMH depression, ? schizophrenia, PTSD and prior suicide 
attempts, presenting with abdominal pain following magnet 
ingestion. 

# Magnet ingestion: Presented with abdominal pain following 
ingestion of 3 magnets which were seen on CXR and KUB. GI was 
consulted and patient underwent EGD on ___ with removal of 
magnets. Per patient, was not suicide attempt but rather was 
trying to get away from her family. While she has a history of 
prior episodes of magnet ingestion, psychiatric evaluation was 
unrevealing for true SI/HI and her attempt was felt to be 
related to an attempt to deal with ego dystonic thoughts related 
towards her anger towards her family. As such, she did not meet 
___ criteria and the patient was felt to need assistance 
with housing outside of her current living situation. She was 
maintained on a 1:1 sitter prior to discharge to avoid further 
ingestions. Her abdominal pain was improved prior to discharge. 
Patient was discharged with cab voucher to take her to ___ 
___ and was provided with clothes, a new cell phone, 
outpatient psych resources and T passes prior to discharge.

# Gastric ulcers: Likely related to ingestion of magnets with 
pinching of gastric lining s/p clipping and epi injection. 
Patient was treated with 24 hours of IV pantoprazole BID and 
then transitioned to PO pantoprazole prior to discharge. Her 
diet was advanced to regular. 

# Anemia: Normocytic anemia in young female. Could be due to 
menstrual blood loss vs bleeding from gastric ulcers depending 
on duration (ie caused by prior magnet ingestion). Stable during 
this admission. Will require further work-up as outpatient if 
persists. 
  
# Depression: Patient with a history of ? schizophrenia, 
depression, and recent admission at ___ following intentional 
magnetic ingestion, representing with the same. As above, does 
not appear to be true voices suggesting psychosis but rather her 
own voice related to her anger at her current living situation. 
She had no active SI/HI and given that presentation was not felt 
to be true suicide attempt, she did not meet criteria for 
___. She was started on aripiprazole (previously taking) 
per psychiatry recommendation and continued on home fluoxetine, 
trazodone and clonazepam. She had outpatient psychiatry 
___ scheduled for ___ ___s access to the ___ 
women's program and was provided with the number for BEST on 
discharge. 

TRANSITIONAL ISSUES:
======================
[ ]Patient will benefit from ongoing psychiatric evaluation for 
depression and medication management
[ ]Please have patient continue on BID PPI for at least one 
month (through ___
[ ]Please repeat Hemoglobin and hematocrit at PCP ___ on 
___. If persistent anemia, consider further work-up for 
unexplained anemia
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. TraZODone 50 mg PO QHS 
2. Fluoxetine 30 mg PO DAILY 
3. ClonazePAM 1 mg PO BID:PRN anxiety 

 
Discharge Medications:
1. ClonazePAM 1 mg PO BID:PRN anxiety 
RX *clonazepam 1 mg 1 tablet by mouth twice a day Disp #*6 
Tablet Refills:*0
2. Fluoxetine 30 mg PO DAILY 
RX *fluoxetine 10 mg 3 tablets by mouth daily Disp #*45 Tablet 
Refills:*0
3. TraZODone 50 mg PO QHS 
RX *trazodone 50 mg 1 tablet(s) by mouth at bedtime Disp #*15 
Tablet Refills:*0
4. ARIPiprazole 10 mg PO DAILY 
RX *aripiprazole 10 mg 1 tablet(s) by mouth Daily Disp #*15 
Tablet Refills:*0
5. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet by mouth twice a day Disp #*60 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Foreign body (magnet) Ingestion
Gastric Ulcers
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital after swallowing several 
magnets. You underwent a procedure called an endoscopy to remove 
the magnets. The endoscopy showed several ulcerations (cuts) 
from the magnets which were repaired. You were started on a new 
medication called pantoprazole to help your stomach heal. It is 
important that you take this medication as prescribed. 

You were seen by psychiatry in the hospital who felt that you 
were safe for discharge as you were not having thoughts of 
hurting yourself or others. You were restarted on abilify and 
continued on your other psychiatric medications. It is very 
important that you ___ with your psychiatrist as scheduled 
on ___ (see below). Additionally, please call 
the partial hospital program for women at ___ HRI at 
___ to set up an intake appointment. 

Finally, you were seen by social work who helped to provide you 
with resources for when you leave the hospital. If you find that 
you need additional assistance when you leave the hospital, you 
have several options:
1. ___ CSA in ___ for care coordination at 
___.
2. ___ Emergency Services Team (BEST) for emergency mental 
health concerns at ___

We wish you the best in your recovery.
 
It was a pleasure taking care of you,
Your ___ Care Team
 
Followup Instructions:
___